US04096263
A solution of 2-aminopyridine (9.4 g.) in dried toluene (25 ml.) was dropwise added at 100° C to a suspension of 55% sodium hydride (5.04 g.) in dried toluene (10 ml.). The mixture was stirred for 2 hours at 100° C. To the solution were added bromoacetaldehyde diethyl acetal (26 g.) and dried toluene (5 ml.). The mixture was stirred for 19 hours at 115° C and cooled to ambient temperature. The reaction mixture was post-treated according to similar manners to those of the above-mentioned Examples to give oil of 2-pyridylaminoacetaldehyde diethyl acetal (8 g.).

reactant | 2-aminopyridine | 9.4 g | NC1=NC=CC=C1 | C5H6N2
reactant | sodium hydride | 5.04 g | [H-].[Na+]
reactant | bromoacetaldehyde diethyl acetal | 26 g | C(C)OC(CBr)OCC | C6H13BrO2
solvent | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
product | 2-pyridylaminoacetaldehyde diethyl acetal | 8 g | C(C)OC(CNC1=NC=CC=C1)OCC | C11H18N2O2
